US06372736B1
Ethyl (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 42 from 2,6-dichloro-1,3-benzothiazole [see J. Ind. Chem. Soc., (1993), 10, 565-569] and ethyl (2S)-2-piperidinecarboxylate (471 mg) [see J.A.C.S. (1993), 115(22), 9925-9938] to afford ethyl (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylate as a solid.

reactant | 2,6-dichloro-1,3-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | ethyl (2S)-2-piperidinecarboxylate | 471 mg | N1[C@@H](CCCC1)C(=O)OCC | C8H15NO2
product | ethyl (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylate | ClC1=CC2=C(N=C(S2)N2[C@@H](CCCC2)C(=O)OCC)C=C1 | C15H17ClN2O2S
